US04357342
An ice-cold solution of benzyl 1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate (13 mg, 0.05 mmol) in anhydrous acetonitrile is treated with N,N-diisopropylethylamine (10.4 μl, 0.06 mmol) and diphenyl chlorophosphate (10.9 μl, 0.053 mmol) and the resulting solution is stirred in the cold and under a nitrogen atmosphere for 90 mins. More N,N-diisopropylethylamine (8.7 μl, 0.05 mmol) and thiophenol (5.1 μl, 0.05 mmol) are added and the reaction mixture is stirred in the cold for 2 hours. The resulting mixture is combined with a second similar run, diluted with ethyl acetate to 10 ml volume, washed with water, 1 M pH3 phosphate buffer, 5% aqueous sodium bicarbonate, and brine, dried over magnesium sulfate, and evaporated under vacuum to an oil (34 mg). This material is purified on a 0.25 mm×20×20 silica gel GF plate using 3:1 toluene-ethyl acetate as developing solvent. The UV visible band at Rf 0.55 is removed and eluted with ethyl acetate. Evaporation of the solvent leaves a residue which is lyophilized from benzene to provide benzyl 3-phenylthio-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate (17 mg) as an amorphous, white powder.

reactant | benzyl 1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate | 0.05 mmol, 13 mg | N12C(C(CC2CC1=O)=O)C(=O)OCC1=CC=CC=C1 | C14H13NO4
reactant | N,N-diisopropylethylamine | 0.06 mmol, 10.4 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | diphenyl chlorophosphate | 0.053 mmol, 10.9 μl | P(=O)(OC1=CC=CC=C1)(OC1=CC=CC=C1)Cl | C12H10ClO3P
reactant | N,N-diisopropylethylamine | 0.05 mmol, 8.7 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | thiophenol | 0.05 mmol, 5.1 μl | C1(=CC=CC=C1)S | C6H6S
solvent | acetonitrile | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | benzyl 3-phenylthio-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | 17 mg | C1(=CC=CC=C1)SC1=C(N2C(CC2C1)=O)C(=O)OCC1=CC=CC=C1 | C20H17NO3S
